US05245085
To a solution of methyl 2-acetyl-5,9-dimethyl-10-(methoxymethyl)oxy-4,8-decadienate (420 mg, 1.37 mmol) in methylsulfoxide (4 ml) were added sodium chloride (160 mg, 2.74 mmol) and water (0.1 ml), and the mixture was stirred at 150° C. After five hours, the reaction mixture was allowed to cool to room temperature, and water (10 ml) was added thereto. The product was extracted with ether (20 m1×2). The extract was dried over Na2SO4, and concentrated to give a residue, which was then purified with silica gel column chromatography to obtain 6,10-dimethyl-11-(methoxymethyl)oxy- 5,9-undecadien-2-one (358 mg, 67%).

reactant | methyl 2-acetyl-5,9-dimethyl-10-(methoxymethyl)oxy-4,8-decadienate | 1.37 mmol, 420 mg | C(C)(=O)C(C(=O)OC)CC=C(CCC=C(COCOC)C)C | C17H28O5
reactant | sodium chloride | 2.74 mmol, 160 mg | [Cl-].[Na+]
reactant | water | 0.1 ml | O | H2O
reactant | water | 10 ml | O | H2O
solvent | methylsulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 6,10-dimethyl-11-(methoxymethyl)oxy- 5,9-undecadien-2-one | 358 mg, 67% | CC(=CCCC(C)=O)CCC=C(COCOC)C | C15H26O3
